US07384963B2
N-(3-Aminocarbonyl-4-methylphenyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 5-amino-2-methylbenzamide using method I. LCMS; retention time 3.00 min, MH+ 427.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 5-amino-2-methylbenzamide | NC=1C=CC(=C(C(=O)N)C1)C | C8H10N2O
product | N-(3-Aminocarbonyl-4-methylphenyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | NC(=O)C=1C=C(C=CC1C)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C | C25H22N4O3
